US07223791B2
A mixture of ethyl 3-[5-(4-trifluoromethylphenyl)-2-furyl]benzoate (1.62 g), 1 M aqueous sodium hydroxide solution (10 ml), tetrahydrofuran (50 ml) and ethanol (50 ml) was stirred at 60° C. for 1 hr. After cooling, the reaction mixture was poured into water, and 1 M hydrochloric acid (20 ml) was added. Crystals were collected by filtration and recrystallized from ethanol to give 3-[5-(4-trifluoromethylphenyl)-2-furyl]benzoic acid (1.41 g, yield 95%) as a pale-yellow crystalline powder. melting point: 271–272° C.

reactant | ethyl 3-[5-(4-trifluoromethylphenyl)-2-furyl]benzoate | 1.62 g | FC(C1=CC=C(C=C1)C1=CC=C(O1)C=1C=C(C(=O)OCC)C=CC1)(F)F | C20H15F3O3
reactant | sodium hydroxide | 1 M, 10 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1 M, 20 ml | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-[5-(4-trifluoromethylphenyl)-2-furyl]benzoic acid | 1.41 g, yield 95% | FC(C1=CC=C(C=C1)C1=CC=C(O1)C=1C=C(C(=O)O)C=CC1)(F)F | C18H11F3O3
